US04162265
b. 1,4-Bis-(3-acetamidophenyl)-buta-1-ene-3-yne.
To 350 ml of deoxygenated acetic acid was added 1.4 g of cuprous acetate whereupon a clear blue solution formed. The solution was brought to reflux, under nitrogen, and 14.35 g (0.09 mole) of 3-acetamidophenylacetylene was added as a solid. The reaction mixture was maintained at reflux for 12 hours and cooled to room temperature. Isolation of the material was carried out by precipitation of the reaction mixture into distilled water and collection by filtration. The light tan material was air dried and recrystallized from isopropanol to give 13.8 g of product (96% yield) (m.p. 276°-278° C.).

reactant | 3-acetamidophenylacetylene | 0.09 mole, 14.35 g | C(C)(=O)NC=1C=C(C=CC1)C#C | C10H9NO
solvent | acetic acid | 350 ml | C(C)(=O)O | C2H4O2
product | 1,4-Bis-(3-acetamidophenyl)-buta-1-ene-3-yne | 13.8 g, 96% yield | C(C)(=O)NC=1C=C(C=CC1)C=CC#CC1=CC(=CC=C1)NC(C)=O | C20H18N2O2
